US08124606B2
Compound 93: 3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one:
To a suspension of 3-(hydroxymethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one (73.2 mg, 0.311 mmol) in propiononitrile (778 μl) was added (cyanomethyl)trimethylphosphonium iodide (91 mg, 0.373 mmol) and DIPEA (163 μl, 0.934 mmol) and finally 1-(4-chlorophenyl)piperazine (61.2 mg, 0.311 mmol). The mixture was heated to 90° C. for 4 hours. The crude product was cooled to RT and left to sit 16 hours, then treated with MeOH (5 mL). The precipitate was collected and refluxed in EtOH (15 mL) 2 hours. The suspension was cooled to room temperature and filtered to retrieve the title compound (75.6 mg, 58.7%) as a white solid. 1H NMR (CHLOROFORM-d) δ (ppm): 7.82 (d, J=1.8 Hz, 1H), 7.72 (br. s., 1H), 7.16-7.24 (m, 2H), 6.99 (br. s., 1H), 6.77-6.89 (m, 2H), 4.41 (dd, J=11.5, 3.7 Hz, 1H), 4.26 (dd, J=13.3, 1.6 Hz, 1H), 3.95-4.12 (m, 2H), 3.59-3.75 (m, 2H), 3.46 (br. s., 2H), 3.16 (br. s., 4H), 2.94-3.06 (m, 1H), 2.60 (br. s., 4H). [M+H] calc'd for C21H24ClN5O2, 414. found, 414.

reactant | 3-(hydroxymethyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one | 0.311 mmol, 73.2 mg | OCC1=CC=2NC(C3N(C2N=C1)CCOC3)=O | C11H13N3O3
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.373 mmol, 91 mg | [I-].C(#N)C[P+](C)(C)C
reactant | DIPEA | 0.934 mmol, 163 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(4-chlorophenyl)piperazine | 0.311 mmol, 61.2 mg | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
solvent | propiononitrile | 778 μl | C(CC)#N | C3H5N
solvent | MeOH | 5 mL | CO | CH4O
product | 3-((4-(4-chlorophenyl)piperazin-1-yl)methyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[4,3-a]pyrido[3,2-e]pyrazin-6(5H)-one | ClC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC(C3N(C2N=C1)CCOC3)=O | C21H24ClN5O2
